US03940394
[4-(p-Chlorobenzylamino)-2-pyrimidinylthio]acetic acid ethyl ester
A stirred mixture of 10.0 g of (4-chloro-2-pyrimidinylthio)acetic acid, ethyl ester, 6.0 g of p-chlorobenzylamine and 4.5 g of sodium carbonate in 150 ml. of ethanol was heated under reflux for 5 hr. The reaction mixture was filtered and water was added to the filtrate to induce crystallization. After cooling in ice the precipitate was collected on a filter. Recrystallization from benzene-petroleum ether afforded 5.5 g of product, mp. 175-178°C.

reactant | (4-chloro-2-pyrimidinylthio)acetic acid, ethyl ester | 10.0 g | ClC1=NC(=NC=C1)SCC(=O)OCC | C8H9ClN2O2S
reactant | p-chlorobenzylamine | 6.0 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium carbonate | 4.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | [4-(p-Chlorobenzylamino)-2-pyrimidinylthio]acetic acid ethyl ester | 5.5 g | C(C)OC(CSC1=NC=CC(=N1)NCC1=CC=C(C=C1)Cl)=O | C15H16ClN3O2S
